US07622471B2
1-(6-Methyl-3-pyridyl)-5-(2-pyridyl)pyrazole-3-carboxylic acid ethyl ester
The general procedure of Referential Example 3-2) was repeated through use of the 5-hydrazino-2-methylpyridine (1.20 g) prepared in Referential Example 63 and the 4-(2-pyridyl)-2,4-dioxobutanoic acid ethyl ester (3.48 g) prepared in Referential Example 31, to thereby give the title compound as an oily product (0.459 g, 15%).

reactant | 5-hydrazino-2-methylpyridine | 1.20 g | N(N)C=1C=CC(=NC1)C | C6H9N3
reactant | 4-(2-pyridyl)-2,4-dioxobutanoic acid ethyl ester | 3.48 g | C(C)OC(C(CC(=O)C1=NC=CC=C1)=O)=O | C11H11NO4
product | 1-(6-Methyl-3-pyridyl)-5-(2-pyridyl)pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)C1=NC=CC=C1)C=1C=NC(=CC1)C | C17H16N4O2
